
.include /home1/e/ese370/ptm/22nm_HP.pm
.include ../bit_driver.spi
.include ../memory_column.spi
.include ../clock_delay.spi
.include ../not.spi
.include ../word_driver.spi
.include ../d_ff_sr.spi
.include ../nor2.spi

.global gnd vdd vdd_mem vdd_clocking

** GLOBAL gnd
** GLOBAL vdd
VVPWL@0 reset gnd pwl (0ns 1v 0ns 0v 1ns 0v 1ns 1v) DC 0V AC 0V 0
VVPWL@1 deq gnd pwl (0ns 0v 5.5ns 0v 5.5ns 1v) DC 0V AC 0V 0
VVPWL@2 enq gnd pwl (0ns 0v 1.5ns 0v 1.5ns 1v 7.5ns 1v 7.5ns 0v) DC 0V AC 0V 0
VVPWL@3 in gnd pwl (0ns 0v 3.5ns 0v 3.5ns 1v 5.5ns 1v 5.5ns 0v) DC 0V AC 0V 0
VVPulse@0 clk gnd pulse (0 1V 0ns 0ps 0ps 1ns 2ns) DC 0V AC 0V 0

VV_Generi@0 vdd gnd DC 1 AC 0
VV_Generi@1 vdd_mem gnd DC 1 AC 0
VV_Generi@2 vdd_clocking gnd DC 1 AC 0

Xbit_driv@0 bit bit_b in_store_b out_store clk write_read_n bit_driver
Xclock_de@0 clk read_write_n clock_delay
Xmemory_c@0 bit bit_b w0 w1 w2 w3 w4 w5 w6 w7 w8 w9 memory_column

Xbit_driv@1 bit bit_b in_store_b out_store clk write_read_n bit_driver
Xmemory_c@1 bit bit_b w0 w1 w2 w3 w4 w5 w6 w7 w8 w9 memory_column

Xbit_driv@2 bit bit_b in_store_b out_store clk write_read_n bit_driver
Xmemory_c@2 bit bit_b w0 w1 w2 w3 w4 w5 w6 w7 w8 w9 memory_column

Xbit_driv@3 bit bit_b in_store_b out_store clk write_read_n bit_driver
Xmemory_c@3 bit bit_b w0 w1 w2 w3 w4 w5 w6 w7 w8 w9 memory_column

Xnot@0 clk clk_n not

Xnot@1 read_write_n write_read_n not
Xnot@2 enq enq_n not
Xnot@3 deq deq_n not

Xword_dri@0 clk deq clk_n enq read_write_n reset w0 w1 w2 w3 w4 w5 w6 w7 w8 w9 empty full word_driver 

xd_ff_sr@0 clk empty empty_store net@xd_ff0 vdd vdd d_ff_sr
xd_ff_sr@1 clk full full_store net@xd_ff1 vdd vdd d_ff_sr

xd_ff_sr@2 in_clk in in_store net@xd_ff2 vdd vdd d_ff_sr
xd_ff_sr@3 out_clk out_store out net@xd_ff3 vdd vdd d_ff_sr

xnot@4 in_store in_store_n not w=8
xnot@5 in_store_n in_store_b not w=16

xnor2@0 full_store clk_n enq_n in_clk nor3
xnor2@1 empty_store clk_n deq_n out_clk nor3

.ic v(xmemory_c@0.xsram@0.bit_i) = 1
.ic v(xmemory_c@0.xsram@1.bit_i) = 1
.ic v(xmemory_c@0.xsram@2.bit_i) = 1
.ic v(xmemory_c@0.xsram@3.bit_i) = 1
.ic v(xmemory_c@0.xsram@4.bit_i) = 1
.ic v(xmemory_c@0.xsram@5.bit_i) = 1
.ic v(xmemory_c@0.xsram@6.bit_i) = 1
.ic v(xmemory_c@0.xsram@7.bit_i) = 1
.ic v(xmemory_c@0.xsram@8.bit_i) = 1
.ic v(xmemory_c@0.xsram@9.bit_i) = 1

.ic v(xmemory_c@1.xsram@0.bit_i) = 1
.ic v(xmemory_c@1.xsram@1.bit_i) = 1
.ic v(xmemory_c@1.xsram@2.bit_i) = 1
.ic v(xmemory_c@1.xsram@3.bit_i) = 1
.ic v(xmemory_c@1.xsram@4.bit_i) = 1
.ic v(xmemory_c@1.xsram@5.bit_i) = 1
.ic v(xmemory_c@1.xsram@6.bit_i) = 1
.ic v(xmemory_c@1.xsram@7.bit_i) = 1
.ic v(xmemory_c@1.xsram@8.bit_i) = 1
.ic v(xmemory_c@1.xsram@9.bit_i) = 1

.ic v(xmemory_c@2.xsram@0.bit_i) = 1
.ic v(xmemory_c@2.xsram@1.bit_i) = 1
.ic v(xmemory_c@2.xsram@2.bit_i) = 1
.ic v(xmemory_c@2.xsram@3.bit_i) = 1
.ic v(xmemory_c@2.xsram@4.bit_i) = 1
.ic v(xmemory_c@2.xsram@5.bit_i) = 1
.ic v(xmemory_c@2.xsram@6.bit_i) = 1
.ic v(xmemory_c@2.xsram@7.bit_i) = 1
.ic v(xmemory_c@2.xsram@8.bit_i) = 1
.ic v(xmemory_c@2.xsram@9.bit_i) = 1

.ic v(xmemory_c@3.xsram@0.bit_i) = 1
.ic v(xmemory_c@3.xsram@1.bit_i) = 1
.ic v(xmemory_c@3.xsram@2.bit_i) = 1
.ic v(xmemory_c@3.xsram@3.bit_i) = 1
.ic v(xmemory_c@3.xsram@4.bit_i) = 1
.ic v(xmemory_c@3.xsram@5.bit_i) = 1
.ic v(xmemory_c@3.xsram@6.bit_i) = 1
.ic v(xmemory_c@3.xsram@7.bit_i) = 1
.ic v(xmemory_c@3.xsram@8.bit_i) = 1
.ic v(xmemory_c@3.xsram@9.bit_i) = 1

.END